US07304081B2
Step 2. Methyl 1-[4-(chloroacetyl)phenyl]cyclopropanecarboxylate
Aluminium trichloride (7.9 g, 60.0 mmol) was added in portions to a mixture of methyl 1-phenylcyclopropanecarboxylate (3.5 g, 20.0 mmol) and chloroacetyl chloride (2.0 mL, 26.0 mmol) in carbon disulfide (40.0 mL) at 15-25° C. The reaction mixture was stirred for 2 hours at room temperature. Then the mixture was poured into concentrated HCl (10.0 mL) in ice (100 g). The resulting mixture was extracted with diethyl ether several times. The combined organic phase was washed with brine, then dried and concentrated. The crude product was purified by CombiFlash using hexane/ethyl acetate.

reactant | Aluminium trichloride | 60.0 mmol, 7.9 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methyl 1-phenylcyclopropanecarboxylate | 20.0 mmol, 3.5 g | C1(=CC=CC=C1)C1(CC1)C(=O)OC | C11H12O2
reactant | chloroacetyl chloride | 26.0 mmol, 2.0 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | 10.0 mL | Cl | ClH
solvent | carbon disulfide | 40.0 mL | C(=S)=S | CS2
product | Methyl 1-[4-(chloroacetyl)phenyl]cyclopropanecarboxylate | ClCC(=O)C1=CC=C(C=C1)C1(CC1)C(=O)OC | C13H13ClO3
